US08536198B2
3-Amino-5-(methoxycarbonyl)benzoic acid (1.0 g, 5.12 mmol, 1 eq.) was dissolved in 15% HBr (22.5 mL) at RT, then cooled to 0° C. with stirring. A 2.5 M aqueous solution of NaNO2 (2.3 mL, 5.64 mmol, 1.1 eq.) was added slowly via an addition funnel to generate the diazonium salt. In a separate flask, CuBr was partially dissolved in 15% HBr (9 mL) and cooled to 0° C. with stirring, to which the diazonium salt solution was subsequently added. A slight exotherm was observed. The reaction was stirred at RT for 30 minutes then carefully heated at 70° C. for 1 hour. The reaction was worked up by filtering off insoluble material as crude product. The solids were dissolved in water/EtOAc and the layers separated. The aqueous layer was extracted again with EtOAc. The organic layers were combined, dried over sodium sulfate and concentrated to give an off-white solid. The product was purified over silica gel in 1:1 hexanes/EtOAc to 100% EtOAc to 4:1 methylene chloride/MeOH to yield 3-bromo-5-(methoxycarbonyl)benzoic acid (0.90 g, 3.47 mmol, 68% yield) as a white solid. MS found: (M−H)+=257/259.

reactant | 3-Amino-5-(methoxycarbonyl)benzoic acid | 5.12 mmol, 1.0 g, 1 eq. | NC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H9NO4
reactant | NaNO2 | 5.64 mmol, 2.3 mL, 1.1 eq. | N(=O)[O-].[Na+]
reactant | HBr | 22.5 mL | Br | BrH
reactant | HBr | 9 mL | Br | BrH
product | 3-bromo-5-(methoxycarbonyl)benzoic acid | 3.47 mmol, 0.90 g, 68% yield | BrC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7BrO4
